US07351825B2
b) (1R*,2S*)-2-(t-butyldimethylsilanyloxymethyl)-2-phenyl-cyclopropane-1,1-dicarboxylic acid mono-t-butyl ester (step 2-4)
Imidazol (18 g, 0.27 mol) was added to a suspension of sodium (1R*,2S*)-1-t-butoxycarbonyl-2-hydroxymethyl-2-phenyl-cyclopropanecarboxylate (38 g, 0.11 mol) obtained in the above-mentioned Example a) in N,N-dimethylformamide (190 mL) under argon atmosphere at 0° C., and t-butyldimethylsilyl chloride (35 g, 0.24 mol) was further added in 2 portions. After warming to room temperature, the mixture was stirred for 12 hours. Then water (76 mL) and methanol (76 mL) were added to the mixture at 0° C., which was followed by addition of potassium carbonate (30 g, 0.21 mol). After the obtained suspension was stirred for 3 hours at room temperature, toluene (190 mL) was added and the mixture was separated into layers using 10% aqueous citric acid solution (400 mL) while adjusting pH to about 5. The aqueous layer was extracted twice with toluene, and the combined organic layer was sequentially washed with 10% aqueous citric acid solution and saturated aqueous sodium chloride solution, and dried over sodium sulfate. After filtration and evaporation, the product was azeotroped with xylene to remove t-butyldimethylsilanol. The title compound (44 g) was obtained as white crystals. The obtained product was used in the next step without purification.

reactant | Imidazol | 0.27 mol, 18 g | N1C=NC=C1 | C3H4N2
reactant | sodium (1R*,2S*)-1-t-butoxycarbonyl-2-hydroxymethyl-2-phenyl-cyclopropanecarboxylate | 0.11 mol, 38 g | C(C)(C)(C)OC(=O)[C@]1([C@](C1)(C1=CC=CC=C1)CO)C(=O)[O-].[Na+]
reactant | t-butyldimethylsilyl chloride | 0.24 mol, 35 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | potassium carbonate | 0.21 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 190 mL | CN(C=O)C | C3H7NO
solvent | toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 76 mL | CO | CH4O
solvent | water | 76 mL | O | H2O
product | (1R*,2S*)-2-(t-butyldimethylsilanyloxymethyl)-2-phenyl-cyclopropane-1,1-dicarboxylic acid mono-t-butyl ester | 44 g | C(C)(C)(C)OC(=O)[C@]1([C@](C1)(C1=CC=CC=C1)CO[Si](C)(C)C(C)(C)C)C(=O)O | C22H34O5Si
